US08809371B2
Cesium carbonate (213 mg), pyrrolidin-2-one (45 mg), Xantphos (76 mg), and Pd2(dba)3 (60 mg) were added to a 1,4-dioxane (4 ml) solution containing 3,5-dibromopyridine (100 mg) in a nitrogen atmosphere, followed by reflux for 4 hours. The reaction mixture was adjusted to room temperature and water was added, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Then, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=3:1 to 1:1), and a white solid of 1-(5-bromopyridin-3-yl)pyrrolidin-2-one (45 mg) was thus obtained.

reactant | Cesium carbonate | 213 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | pyrrolidin-2-one | 45 mg | N1C(CCC1)=O | C4H7NO
reactant | Xantphos | 76 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 3,5-dibromopyridine | 100 mg | BrC=1C=NC=C(C1)Br | C5H3Br2N
catalyst | Pd2(dba)3 | 60 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | 1,4-dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | 1-(5-bromopyridin-3-yl)pyrrolidin-2-one | 45 mg | BrC=1C=C(C=NC1)N1C(CCC1)=O | C9H9BrN2O
